US07449475B2
N-Cyclopropyl-2-hydroxy-4-[(4-methoxybenzyl)oxy]benzamide
Methyl 2-hydroxy-4-[(4-methoxybenzyl)oxy]benzoate (Percec, V; Tomazos, D. J. Mater. Chem. 1993, 3, 643-650) (530 mg, 1.83 mmol) was dissolved in cyclopropyl amine (3 mL) and left at room temperature for a week. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (040% ethyl acetate in petroleum ether) to give the subtitled compound (407 mg).

reactant | Methyl 2-hydroxy-4-[(4-methoxybenzyl)oxy]benzoate | 1.83 mmol, 530 mg | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)OC | C16H16O5
reactant | cyclopropyl amine | 3 mL | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-hydroxy-4-[(4-methoxybenzyl)oxy]benzamide | 407 mg | C1(CC1)NC(C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)O)=O | C18H19NO4
